US05789409
4-[[4-(2-Pyridyl)-1-piperazinyl]methyl]phenylacetic acid hydrochloride
Using 2.2 g of methyl 4-bromomethylphenylacetate, 1.5 g of 1-(2-piperazinyl)piperazine, 1.9 ml of triethylamine, and 70 ml of dioxane, the reaction procedure of Example 2 was otherwise repeated and the reaction product was converted to the hydrochloride using 2N-hydrochloric acid and recrystallized from ethanol-ether to provide 1.1 g of the title compound melting at 214° C.-216° C.

reactant | methyl 4-bromomethylphenylacetate | 2.2 g | BrCC1=CC=C(C=C1)CC(=O)OC | C10H11BrO2
reactant | 1-(2-piperazinyl)piperazine | 1.5 g | N1C(CNCC1)N1CCNCC1 | C8H18N4
reactant | triethylamine | 1.9 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloride | 2N | Cl | ClH
solvent | dioxane | 70 ml | O1CCOCC1 | C4H8O2
product | 4-[[4-(2-Pyridyl)-1-piperazinyl]methyl]phenylacetic acid hydrochloride | 1.1 g | Cl.N1=C(C=CC=C1)N1CCN(CC1)CC1=CC=C(C=C1)CC(=O)O | InChI=1S/C18H21N3O2.ClH/c22-18(23)13-15-4-6-16(7-5-15)14-20-9-11-21(12-10-20)17-3-1-2-8-19-17;/h1-8H,9-14H2,(H,22,23);1H
